US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[4-(DIPHENYLAMINO)BENZYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 4-diphenylamino-benzaldehyde. MS (ESI) m/z 636.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 4-diphenylamino-benzaldehyde | C1(=CC=CC=C1)N(C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C19H15NO
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[4-(DIPHENYLAMINO)BENZYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C42H32F3N3
